US04242519
Methanol (5 ml) and 1 ml of water were added to 887 mg of methyl α-methylthio-α-[5-(α,α-dimethoxybenzyl)-2-thienyl]propionate, and 0.2 ml of conc. hydrochloric acid was added. The mixture was heated under reflux for 1 hour. After cooling, the mixture was concentrated under reduced pressure. The residue was chromatographed on a silica gel column using benzene as an eluent to afford 754 mg of methyl α-methylthio-α-(5-benzoyl-2-thienyl)propionate as an oil in a yield of 97%.

reactant | Methanol | 5 ml | CO | CH4O
reactant | methyl α-methylthio-α-[5-(α,α-dimethoxybenzyl)-2-thienyl]propionate | 887 mg | CSC(C(=O)OC)(C)C=1SC(=CC1)C(C1=CC=CC=C1)(OC)OC | C18H22O4S2
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
solvent | water | 1 ml | O | H2O
product | methyl α-methylthio-α-(5-benzoyl-2-thienyl)propionate | 754 mg, yield of 97% | CSC(C(=O)OC)(C)C=1SC(=CC1)C(C1=CC=CC=C1)=O | C16H16O3S2
